US04851030
1-[[2-(Phenylmethylthio)phenyl]methyl]-1H-1,2,4-triazole
To a suspension of 9.9 g of potassium t-butoxide in 100 ml of DMF under a N2 atmosphere was added portion wise 6 g of 1,2,4-triazole. After stirring at ambient temperature for one hour, a solution of 20 g of 2-benzylmercaptobenzyl chloride in 15 ml of DMF was added dropwise and the suspension was heated at 70° C. for 4 hours, then stirred at 25° C. 16 hours. After pouring the suspension into excess ice-water the residue was extracted with methylene chloride, dried (MgSO4), and the solvent was evaporated in vacuo to an oil residue which solidified to 14.5 g of the subject compound when triturated with 1-chlorobutane; m.p. 65°-68° C.

reactant | potassium t-butoxide | 9.9 g | CC(C)([O-])C.[K+]
reactant | 1,2,4-triazole | 6 g | N1N=CN=C1 | C2H3N3
reactant | 2-benzylmercaptobenzyl chloride | 20 g | C(C1=CC=CC=C1)SC1=C(CCl)C=CC=C1 | C14H13ClS
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-[[2-(Phenylmethylthio)phenyl]methyl]-1H-1,2,4-triazole | C1(=CC=CC=C1)CSC1=C(C=CC=C1)CN1N=CN=C1 | C16H15N3S
